US05714608
imidazo[4,5-c]quinolin-4-amine
A 2.1 g portion of 1-[(2-acetoxyethoxy)-methyl]-1H-imidazo[4,5-c]quinolin-4-amine was combined with 25 mL of 15% ammonia in methanol and stirred at room temperature for about 16 hours. The resulting precipitate was collected, rinsed with ether and dried to provide 1.1 g of a solid. This solid was recrystallized from 50 mL of ethanol to provide 0.8 g of 1-[(2-hydroxyethoxy)]methyl-1H-imidazo[4,5-c]quinolin-4-amine as a yellow crystalline solid, m.p. 210°-212° C. Analysis: Calculated for C13H14N4O2 : %C, 60.4; %H, 5.5; %N, 21.7; Found: %C, 60.3; %H, 5.5; %N, 21.5.

reactant | 1-[(2-acetoxyethoxy)-methyl]-1H-imidazo[4,5-c]quinolin-4-amine | C(C)(=O)OCCOCN1C=NC=2C(=NC=3C=CC=CC3C21)N | C15H16N4O3
reactant | ammonia | 25 mL | N | H3N
solvent | methanol | CO | CH4O
product | imidazo[4,5-c]quinolin-4-amine | 1.1 g | N=1C=NC2=C(NC=3C=CC=CC3C21)N | C10H8N4
